US07790709B2
Preparation of (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (2-isopropoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (326 mg, 83%) was prepared as a white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (s, 1H), 8.36 (d, J=17.3 Hz, 1H), 8.10-7.98 (m, 1H), 7.50 (d, J=15.3 Hz, 1H), 7.28-7.17 (m, 1H), 7.05-6.93 (m, 2H), 6.63 (dd, J=7.3, 7.3 Hz, 1H), 5.77 (br s, 1H), 4.77-4.63 (m, 2H), 4.59-4.45 (m, 1H), 3.79 (s, 3H), 3.08-2.81 (m, 5H), 2.56-2.44 (m, 2H), 1.23 (t, J=5.7 Hz, 6H);

reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (2-isopropoxy-3-methoxy-benzyl)methylamine | C(C)(C)OC1=C(CCN)C=CC=C1OC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride | 326 mg, 83% | Cl.C(C)(C)OC1=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=CC=C1OC | InChI=1S/C23H27N3O4.ClH/c1-15(2)30-22-18(6-5-7-19(22)29-4)14-26(3)21(28)11-8-16-12-17-9-10-20(27)25-23(17)24-13-16;/h5-8,11-13,15H,9-10,14H2,1-4H3,(H,24,25,27);1H/b11-8+;
